US08133910B2
5-Ethyl-thiophene-2-carboxylic acid
A solution of thiophencarboxylic acid (4.00 g, 30.9 mmol) in THF (24 mL) is added dropwise via a syringe to a stirred solution of LDA (32.5 mL, 2 M in toluene) in THF (40 mL) cooled to −78° C. The temperature of the reaction is maintained at −78° C. for 10 min before iodoethane (4.87 g, 30.9 mmol) is added. The mixture is stirred at −78° C. for 1 h and is then allowed to warm to rt overnight. The reaction is quenched by the addition of water. The mixture is acidified and extracted three times with diethyl ether. The org. extracts are dried over MgSO4, filtered and evaporated. The crude product is purified by MPLC on reversed phase silica gel to give the title compound (1.10 g) as a brownish solid; LC-MS: tR=0.80 min, 1H NMR (CDCl3): δ 1.34 (t, J=7.3 Hz, 3H), 2.90 (q, J=7.6 Hz, 2H), 6.84 (d, J=3.5 Hz, 1H), 7.73 (d, J=3.8 Hz, 1H).

reactant | thiophencarboxylic acid | 30.9 mmol, 4.00 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | LDA | 2 M, 32.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | iodoethane | 30.9 mmol, 4.87 g | ICC | C2H5I
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-Ethyl-thiophene-2-carboxylic acid | 1.10 g | C(C)C1=CC=C(S1)C(=O)O | C7H8O2S
